### PR TITLE
[Merged by Bors] - feat: order lemmas for NNRat

### PR DESCRIPTION
**Pull request by eric-wieser**
This copies the API for order lemmas on `Rat`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 1]
```diff
@@ -171,4 +263,18 @@ def evalRatCast : PositivityExt where eval {u α} _zα _pα e := do
     return .nonzero q((Rat.cast_ne_zero (α := $α)).mpr $pa)
   | .none => pure .none
 
+/-- Extension for NNRat.cast. -/
+@[positivity NNRat.cast _]
+def evalNNRatCast : PositivityExt where eval {u α} _zα _pα e := do
```
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:268]: Can we have tests?

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 2]
```diff
@@ -148,6 +149,97 @@ theorem preimage_cast_uIoc (a b : ℚ) : (↑) ⁻¹' uIoc (a : K) b = uIoc a b
...
+theorem preimage_cast_Iio (a : ℚ≥0) : (↑) ⁻¹' Iio (a : K) = Iio a :=
+  castOrderEmbedding.preimage_Iio a
+
+@[simp]
+theorem preimage_cast_uIcc (a b : ℚ≥0) : (↑) ⁻¹' uIcc (a : K) b = uIcc a b :=
+  (castOrderEmbedding (K := K)).preimage_uIcc a b
+
+@[simp]
+theorem preimage_cast_uIoc (a b : ℚ≥0) : (↑) ⁻¹' uIoc (a : K) b = uIoc a b :=
+  (castOrderEmbedding (K := K)).preimage_uIoc a b
```
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:239]: Can we have the corresponding `image` lemmas for `NNRat -> Rat`?

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 3]
```diff
@@ -148,6 +149,97 @@ theorem preimage_cast_uIoc (a b : ℚ) : (↑) ⁻¹' uIoc (a : K) b = uIoc a b
...
+theorem cast_nonpos {n : ℚ≥0} : (n : K) ≤ 0 ↔ n ≤ 0 := by
+  norm_cast
+
+@[simp]
+theorem cast_pos {n : ℚ≥0} : (0 : K) < n ↔ 0 < n := by
+  norm_cast
+
+@[simp]
+theorem cast_lt_zero {n : ℚ≥0} : (n : K) < 0 ↔ n < 0 := by
+  norm_cast
```
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:189]: This looks useless

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 4]
```diff
@@ -148,6 +149,97 @@ theorem preimage_cast_uIoc (a b : ℚ) : (↑) ⁻¹' uIoc (a : K) b = uIoc a b
...
+
+@[simp, norm_cast]
+theorem cast_min {a b : ℚ≥0} : (↑(min a b) : K) = min (a : K) (b : K) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:192]:
```suggestion
theorem cast_min (a b : ℚ≥0) : (↑(min a b) : K) = min (a : K) (b : K) :=
```
and below

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 5]
```diff
@@ -148,6 +149,97 @@ theorem preimage_cast_uIoc (a b : ℚ) : (↑) ⁻¹' uIoc (a : K) b = uIoc a b
...
+@[simp, norm_cast]
+theorem cast_lt {m n : ℚ≥0} : (m : K) < n ↔ m < n :=
+  cast_strictMono.lt_iff_lt
+
+@[simp]
+theorem cast_nonpos {n : ℚ≥0} : (n : K) ≤ 0 ↔ n ≤ 0 := by
+  norm_cast
+
+@[simp]
+theorem cast_pos {n : ℚ≥0} : (0 : K) < n ↔ 0 < n := by
```
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:184]: Please call elements of `Rat`/`NNRat` `p` or `q`, not `m` or `n`

Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:184]: This is consistent with the naming in the rest of the file; I'd prefer to declare this out of scope.

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:192]: This is consistent with the Rat versions of the lemmas; I'd prefer to declare this out of scope too.

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:189]: I'd argue that unless the linter complains, it's not!

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:239]: I'd claim "out of scope" here too; this PR just duplicates the existing Rat API, rather than adding new API.

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:268]: Done

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Rat/Cast/Order.lean:189]: No but like there's no point blindly copying lemmas from one type to the other if they don't make sense for the new type. Both sides of your iff are always false, so you might as well replace it by `Not LHS`

Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:189]: Ah, I guess the linter doesn't tell me when the RHS is further simplified.

Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean]: I've added your suggest but kept my original (without `simp`), because without this lemma `norm_cast` leaves some casts around.

Comment (YaelDillies) [reply Mathlib/Data/Rat/Cast/Order.lean]: Uh okay interesting

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Rat/Cast/Order.lean:195]: I have opened #13644 to make your changes inconsistent with the Rat versions of the lemmas

Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:195]: I'd appreciate it if you could push the corresponding changes to this PR once that lands; but it can wait till after your final exam!

Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:195]: (or preferably, delegate this one first so that I can move on to the floorsemiring instance)

Comment (YaelDillies) [reply Mathlib/Data/Rat/Cast/Order.lean:195]: Sure, I guess that's fixable later

maintainer merge
